US05849911
37a) 4-Bromobenzaldehyde dimethyl acetal
21.1 g (114 mmol) of 4-bromobenzaldehyde and 20 ml (182 mmol) of trimethyl orthoformate (both Fluka, Buchs, Switzerland) are dissolved in 35 ml of methanol, and 0.65 g (3.4 mmol) of p-toluenesulfonic acid monohydrate is added at room temperature (exothermic reaction). The reaction mixture is stirred at room temperature under nitrogen for 20 hours. The acid is then neutralised with 0.62 ml of 30% sodium methanolate solution in methanol (3.4 mmol); the reaction mixture is concentrated using a rotary evaporator and the residue is distilled. The title compound is obtained in the form of a colourless liquid. TLC: Rt =0.58 (hexane/ethyl acetate 2:1). B.p.: 90°-92° C. (4 mbar). 1H-NMR (CDCl3 ; 200 MHz): 7.50 and 7.32/each d, J=9 (2×2H); 5.36/s (1H); 3.31/s (6H).

reactant | 4-bromobenzaldehyde | 114 mmol, 21.1 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | trimethyl orthoformate | 182 mmol, 20 ml | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid monohydrate | 3.4 mmol, 0.65 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium methanolate | 0.62 ml | C[O-].[Na+]
solvent | methanol | 35 ml | CO | CH4O
solvent | methanol | 3.4 mmol | CO | CH4O
product | 4-Bromobenzaldehyde dimethyl acetal | COC(C1=CC=C(C=C1)Br)OC | C9H11BrO2
